US05631401
A suspension of 2-aminoethanethiol hydrochloride (2.27 g, 20.0 mmol), benzyl chloride (2.42 mL, 21.0 mmol) and cesium carbonate (19.5 g, 60 mmol) in DMF (100 mL) was stirred overnight. The reaction mixture was then diluted with ethyl acetate (200 mL) and filtered into a separation funnel. The solid residue was washed with ether (50 mL×3). The combined filtrates were then washed with water (80 mL×5) and brine (50 mL), dried over potassium carbonate and filtered. The filtrate was concentrated first with rotary evaporator (water bath at 80° C.), then by high vacuum (1 mm Hg) to give 2-benzylthioethylamine in good purity. The crude product was used for next step without further purification.

reactant | 2-aminoethanethiol hydrochloride | 20.0 mmol, 2.27 g | Cl.NCCS
reactant | benzyl chloride | 21.0 mmol, 2.42 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | cesium carbonate | 60 mmol, 19.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-benzylthioethylamine | C(C1=CC=CC=C1)SCCN | C9H13NS
